EXAMPLE PSPICE
R0 1 2 1
R1 1 6 1
R2 2 3 1
R3 2 7 1
R4 3 4 1
R5 3 8 1
R6 4 5 1
R7 4 9 1
R8 5 10 1
R9 6 7 1
R10 6 11 1
R11 7 8 1
R12 7 12 1
R13 8 9 1
R14 8 13 1
R15 9 10 1
R16 9 0 1
R17 10 14 1
R18 11 12 1
R19 11 15 1
R20 12 13 1
R21 12 16 1
R22 13 0 1
R23 13 17 1
R24 0 14 1
R25 0 18 1
R26 14 19 1
R27 15 16 1
R28 16 17 1
R29 17 18 1
R30 18 19 1
VIN 7 0 DC 1
.OP
.END
