10 mm x 10 mm x 0.10 with 10 divisions per axis
R0 1 2 0
R1 1 11 0
R2 2 3 0
R3 2 12 0
R4 3 4 0
R5 3 13 0
R6 4 5 0
R7 4 14 0
R8 5 6 0
R9 5 15 0
R10 6 7 0
R11 6 16 0
R12 7 8 0
R13 7 17 0
R14 8 9 0
R15 8 18 0
R16 9 10 0
R17 9 19 0
R18 10 20 0
R19 11 12 0
R20 11 21 0
R21 12 13 0
R22 12 22 0
R23 13 14 0
R24 13 23 0
R25 14 15 0
R26 14 24 0
R27 15 16 0
R28 15 25 0
R29 16 17 0
R30 16 26 0
R31 17 18 0
R32 17 27 0
R33 18 19 0
R34 18 28 0
R35 19 20 0
R36 19 29 0
R37 20 30 0
R38 21 22 0
R39 21 31 0
R40 22 23 0
R41 22 32 0
R42 23 24 0
R43 23 33 0
R44 24 25 0
R45 24 34 0
R46 25 26 0
R47 25 35 0
R48 26 27 0
R49 26 36 0
R50 27 28 0
R51 27 37 0
R52 28 29 0
R53 28 38 0
R54 29 30 0
R55 29 39 0
R56 30 40 0
R57 31 32 0
R58 31 41 0
R59 32 33 0
R60 32 42 0
R61 33 34 0
R62 33 43 0
R63 34 35 0
R64 34 44 0
R65 35 36 0
R66 35 45 0
R67 36 37 0
R68 36 46 0
R69 37 38 0
R70 37 47 0
R71 38 39 0
R72 38 48 0
R73 39 40 0
R74 39 49 0
R75 40 50 0
R76 41 42 0
R77 41 51 0
R78 42 43 0
R79 42 52 0
R80 43 44 0
R81 43 53 0
R82 44 45 0
R83 44 54 0
R84 45 46 0
R85 45 55 0
R86 46 47 0
R87 46 56 0
R88 47 48 0
R89 47 57 0
R90 48 49 0
R91 48 58 0
R92 49 50 0
R93 49 59 0
R94 50 60 0
R95 51 52 0
R96 51 61 0
R97 52 53 0
R98 52 62 0
R99 53 54 0
R100 53 63 0
R101 54 55 0
R102 54 64 0
R103 55 56 0
R104 55 65 0
R105 56 57 0
R106 56 66 0
R107 57 58 0
R108 57 67 0
R109 58 59 0
R110 58 68 0
R111 59 60 0
R112 59 69 0
R113 60 70 0
R114 61 62 0
R115 61 71 0
R116 62 63 0
R117 62 72 0
R118 63 64 0
R119 63 73 0
R120 64 65 0
R121 64 74 0
R122 65 66 0
R123 65 75 0
R124 66 67 0
R125 66 76 0
R126 67 68 0
R127 67 77 0
R128 68 69 0
R129 68 78 0
R130 69 70 0
R131 69 79 0
R132 70 80 0
R133 71 72 0
R134 71 81 0
R135 72 73 0
R136 72 82 0
R137 73 74 0
R138 73 83 0
R139 74 75 0
R140 74 84 0
R141 75 76 0
R142 75 85 0
R143 76 77 0
R144 76 86 0
R145 77 78 0
R146 77 87 0
R147 78 79 0
R148 78 88 0
R149 79 80 0
R150 79 0 0
R151 80 89 0
R152 81 82 0
R153 81 90 0
R154 82 83 0
R155 82 91 0
R156 83 84 0
R157 83 92 0
R158 84 85 0
R159 84 93 0
R160 85 86 0
R161 85 94 0
R162 86 87 0
R163 86 95 0
R164 87 88 0
R165 87 96 0
R166 88 0 0
R167 88 97 0
R168 0 89 0
R169 0 98 0
R170 89 99 0
R171 90 91 0
R172 91 92 0
R173 92 93 0
R174 93 94 0
R175 94 95 0
R176 95 96 0
R177 96 97 0
R178 97 98 0
R179 98 99 0
VIN 1 0 DC 1
.OP
.END
