10 mm x 10 mm x 0.10 with 5 divisions per axis
R0 1 2 0
R1 1 6 0
R2 2 3 0
R3 2 7 0
R4 3 4 0
R5 3 8 0
R6 4 5 0
R7 4 9 0
R8 5 10 0
R9 6 7 0
R10 6 11 0
R11 7 8 0
R12 7 12 0
R13 8 9 0
R14 8 13 0
R15 9 10 0
R16 9 14 0
R17 10 15 0
R18 11 12 0
R19 11 16 0
R20 12 13 0
R21 12 17 0
R22 13 14 0
R23 13 18 0
R24 14 15 0
R25 14 0 0
R26 15 19 0
R27 16 17 0
R28 16 20 0
R29 17 18 0
R30 17 21 0
R31 18 0 0
R32 18 22 0
R33 0 19 0
R34 0 23 0
R35 19 24 0
R36 20 21 0
R37 21 22 0
R38 22 23 0
R39 23 24 0
VIN 0 0 DC 1
.OP
.END
